US04446133
In 90 ml of chloroform was dissolved 3.6 g (0.0152 mole) of 1-(4-ethoxycarbonylphenyl)piperazine at room temperature. The temperature was elevated at 50° C. and a solution of 1.54 g (0.0114 mole) of diethylcarbamoyl chloride in 45 ml of chloroform was dropped to the above solution over a period of 30 minutes. The mixture was heated and refluxed for 2 hours, and the insoluble substance was removed and the filtrate was subjected to distillation under reduced pressure. The residue was mixed with 50 ml of a 35% aqueous solution of sodium hydroxide, and 200 ml of toluene was added and the mixture was stirred at room temperature for 30 minutes. The water layer was removed, and the organic layer was dried with anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The residue was mixed with 20 ml of benzene and the mixture was stirred for a certain time. The benzene-insoluble substance was removed and the filtrate was subjected to silica gel chromatography to obtain 3.6 g of 1-(4-ethoxycarbonylphenyl)-4-diethylcarbamoylpiperazine having a melting point of 77° to 82° C.

reactant | 1-(4-ethoxycarbonylphenyl)piperazine | 0.0152 mole, 3.6 g | C(C)OC(=O)C1=CC=C(C=C1)N1CCNCC1 | C13H18N2O2
reactant | diethylcarbamoyl chloride | 0.0114 mole, 1.54 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | chloroform | 90 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 45 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-ethoxycarbonylphenyl)-4-diethylcarbamoylpiperazine | 3.6 g | C(C)OC(=O)C1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | C18H27N3O3
